Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / NSAIDS (Non-Steroidal Anti-Inflammatory Drug) / 
erythromycin base / cheeses soft, ___, cottage, cream cheese
 
Attending: ___
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with PMHx coronary artery disease (status post stent), heart
failure with preserved ejection fraction, atrial fibrillation on
rivaroxaban, and a recent admission for pericarditis who 
presents
with a chief complaint of substernal chest pain that began
suddenly at 5:30 in the morning on ___.  It is similar to his
previous presentation of pericarditis.

Patient was recently in the hospital for 3 weeks for a
pericarditis flare.  He was discharged on ___, and felt
very well throughout the weekend.  On ___, he was getting up
from bed to go to the bathroom when he felt the sudden onset of
sharp substernal chest pain, with radiation around to both
shoulders and through to the back.  Patient describes the pain 
as
similar to his prior pericarditis flare.  The patient had been
taking Vicodin and a prednisone taper at home; this did not help
with his pain.  His pain is exacerbated by taking a deep breath;
it is not made worse by positional changes.  He denies any
associated symptoms of shortness of breath or syncope.  He did
report palpitations on ___, and for this reason he called EMS
to return to the emergency department.

In the ED, initial VS were: T 97.7 BP 105/70 HR 98 RR 16 O2 96%
on RA
Exam notable for:
GA: NAD, sitting up in bed
Pulm: CTAB
CV: nl S1S2, RRR, no m/r/g, 2+ peripheral pulses b/l
Abd: soft, nt, nd, no masses
Ext: 1+ non pitting LLE  
EKG:  NSR71, nl axis, nl intervals, non specific st changes
Labs showed: Negative troponin ×1, leukocytosis to 16.9 
(baseline
in the ___ to mid teens), urinary glucose greater than 1000,
sodium 120 (up to 125 on recheck).
Imaging showed:  
CXR PA AND LATERAL (___):
Small left pleural effusion with overlying atelectasis, left 
base
consolidation is difficult to exclude. 
Consults:
Cardiology -recommended 40 mg p.o. prednisone, to continue home
colchicine, and admit to ___.
Patient received: 4 mg morphine sulfate, Tylenol 1 g, prednisone
40 mg, normal saline 1 L, Zofran 4 mg IV.
 
Transfer VS were:  
T 98.2 BP 121/54 HR 70 RR 18 O2 90% on RA

On arrival to the floor, patient reports the above history.  He
is very uncomfortable, and would like a shot of morphine again 
as
it "works faster for the pain."  He denies any fevers, chills,
abdominal pain, dysuria, hematuria, and focal weakness.
 
REVIEW OF SYSTEMS: 10 point ROS reviewed and negative except as
per HPI  

 
Past Medical History:
-Sick sinus syndrome s/p PPM ___ Revo DDD,  
 MRI-compatible,  
 ___  
 -CAD s/p DES to mid-LAD in ___. Preserved LVEF in ___.  
 -Stroke ___ (with recovering motor function, though still with
some left thigh sensory decrease)
 -Diabetes mellitus type II on insulin  
 -Hypertension  
 -Hyperlipidemia  
 -Morbid obesity s/p Gastric bypass surgery ___  
 -Obstructive sleep apnea - not on CPAP  
 -Pancreatitis ___ related to alcohol  
 -s/p Cholecystectomy  
 -Hypothyroidism  
 -Osteoarthritis  
 -s/p Bilateral shoulder surgery, chronic pain  
 -Major depression with psychotic features (vs schizoaffective  
 disorder per patient) (Dr. ___ name unknown, affiliated  

 with ___)  
 -Anxiety  
 -Conversion disorder  
 -Benign paroxysmal positional vertigo  
 -Glaucoma, cataract (Dr. ___ at ___ 
___)

 
Social History:
___
Family History:
No known history of malignancies.
 
Physical Exam:
ADMISSION PHYSICAL EXAM
VS:  ___ ___ Temp: 98.1 PO BP: 115/78 HR: 71 RR: 20 O2 
sat:
98% O2 delivery: ra Dyspnea: 0 RASS: 0 Pain Score: ___ 
GENERAL: Obese Caucasian male, sitting up in bed and responsive. 

Pleasant and cooperative, though appears somewhat uncomfortable.
HEENT: Sclerae anicteric, mucous members moist.
HEART: Distant heart sounds, but regular rate and rhythm.  
Normal
S1-S2.  No murmurs/gallops/rubs.
THORAX: Put in place in right upper chest wall.
LUNGS: Patient takes short shallow breaths.  No wheezes, rales,
rhonchi.
ABDOMEN: Abdomen is soft, protuberant, nontender in all
quadrants, no rebound/guarding.  
EXTREMITIES: no cyanosis, clubbing.  Trace pretibial edema one
third of the way up the shin.
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose.
SKIN: warm and well perfused.  Patient has a 1 cm x 1 cm brown
raised flat lesion in between his shoulder blades on the back. 
He states this was "from a mole being lanced when I was a
teenager."  Now surrounding skin changes.

DISCHARGE PHYSICAL EXAM
VS:  
24 HR Data (last updated ___ @ 1543)
    Temp: 98.1 (Tm 99.0), BP: 112/67 (112-150/67-86), HR: 71 
(68-75), RR: 18 (___), O2 sat: 97% (95-97), O2 delivery: ra, 
Wt: 261.02 lb/118.4 kg  
GENERAL: Obese Caucasian male, sitting in chair, pleasant, 
eating breakfast
HEENT: Sclerae anicteric, mucous members moist.
HEART: Distant heart sounds, but regular rate and rhythm. 
+pre-cordial rub. pain reproducible on palpation
LUNGS: breathing comfortably on RA, CTAB
ABDOMEN: Abdomen is soft, protuberant, nontender in all 
quadrants, no rebound/guarding.  
EXTREMITIES: no cyanosis, clubbing. 1+ pitting edema bilaterally
NEURO: A&Ox3, moving all 4 extremities with purpose.
SKIN: Patient has a 1 cm x 1 cm brown raised flat lesion in 
between his shoulder blades on the back.  He states this was 
"from a mole being lanced when I was a teenager."  Now 
surrounding skin changes.
 
Pertinent Results:
ADMISSION LABS
--------------

___ 11:03PM BLOOD WBC-16.9* RBC-2.93* Hgb-8.3* Hct-25.8* 
MCV-88 MCH-28.3 MCHC-32.2 RDW-15.5 RDWSD-49.1* Plt ___
___ 11:03PM BLOOD Neuts-33.3* Lymphs-57.6* Monos-7.2 
Eos-1.0 Baso-0.2 Im ___ AbsNeut-5.61# AbsLymp-9.72* 
AbsMono-1.22* AbsEos-0.17 AbsBaso-0.03
___ 11:03PM BLOOD Hypochr-NORMAL Anisocy-NORMAL 
Poiklo-NORMAL Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL
___ 11:03PM BLOOD ___ PTT-32.1 ___
___ 11:03PM BLOOD Glucose-245* UreaN-17 Creat-1.0 Na-120* 
K-4.9 Cl-89* HCO3-23 AnGap-8*
___ 05:59AM BLOOD ALT-188* AST-27 AlkPhos-68 TotBili-0.4
___ 11:03PM BLOOD cTropnT-<0.01
___ 05:59AM BLOOD CK-MB-3 cTropnT-<0.01
___ 05:59AM BLOOD Albumin-3.6 Calcium-8.2* Phos-3.2 Mg-1.8
___ 05:59AM BLOOD Cortsol-3.0
___ 05:59AM BLOOD TSH-4.9*
___ 05:59AM BLOOD Osmolal-266*
___ 11:11PM BLOOD Lactate-1.5

DISCHARGE PHYSICAL EXAM

___ 04:36AM BLOOD WBC-16.6* RBC-3.01* Hgb-8.4* Hct-26.0* 
MCV-86 MCH-27.9 MCHC-32.3 RDW-15.0 RDWSD-47.7* Plt ___
___ 04:36AM BLOOD ___ PTT-41.7* ___
___ 04:36AM BLOOD Glucose-137* UreaN-20 Creat-1.0 Na-128* 
K-4.5 Cl-89* HCO3-26 AnGap-13
___ 04:36AM BLOOD Calcium-8.8 Phos-3.8 Mg-2.0

STUDIES
-------
___ TTE
Suboptimal image quality. Trivial posterior pericardial effusion 
without echo evidence of tamponade. Aortic regurgitation is 
present. Mildly dilated thoracic aorta. Mild left ventricular 
hypertrophy with normal biventricular systolic function. 
Findings c/w hypertensive heart disease. A left pleural effusion 
is present. 

Compared with the prior study (images reviewed) of ___ 
the pericardial effusion is likley similar. This was a complete 
study with additional findings as noted, but still limited by 
image quality.  
 
Brief Hospital Course:
___ gentleman with a history of coronary artery disease 
(status post mid LAD PCI in ___, sick sinus syndrome status 
post pacemaker, paroxysmal atrial fibrillation on rivaroxaban, 
type 2 diabetes mellitus on insulin, and recent admission for 
pericarditis who presented with substernal chest pain similar to 
his most recent admission with pericarditis. Patient's exam 
generally unremarkable, with normal blood pressures and good 
mentation. Labs notable for a negative troponin and EKG without 
acute changes. Hospital course complicated by hyponatremia, 
hyperkalemia, and hyperglycemia.

ACTIVE ISSUES
=============

#Chest pain
#Pericarditis
His chest pain on presentation was very similar to his most 
recent presentation of pericarditis. In the absence of troponin 
elevation and EKG changes, this was likely a recurrent 
pericarditis flare. No evidence of recurrent pericardial 
effusion on TTE ___. He was recently discharged on a 
prednisone taper and taking 10 mg daily prior to admission. The 
patient received prednisone 40 mg in the emergency room on ___ 
with plan to continue prednisone 40 mg daily for 7 days followed 
by a slower steroid taper. Pantoprazole was continued for GI 
prophylaxis. Given persistently recurring chest pain and 
inability to give NSAIDs in the setting of CAD status post PCI 
___, aspirin was increased to 320 mg daily for 2 weeks with 
plan for subsequent decrease back to 81 mg daily (the patient 
may continue taking 320 mg daily for pain as needed). Colchicine 
twice daily was continued. Chest pain resolved within 1 day of 
admission. Follow up with cardiology is recommended.

#Hyponatremia
The patient presented with hypoosmolar hyponatremia to 120 which 
was asymptomatic (exacerbated by initial blood glucose of 220. 
Urine lytes were notable for Na of 43. Given euvolemia on exam 
his hyponatremia was most likely secondary to SIADH in the 
setting of acute pain from pericarditis. A.m. cortisol level low 
in the setting of current treatment with prednisone as above. 
TSH not significantly elevated. Patient was placed on fluid 
restriction of 1.5 L daily and his sodium subsequently increased 
to 128. The patient was educated to continue with the daily 
fluid restriction until he follows up with his primary care 
physician. Follow up within ___ weeks is recommended to ensure 
normalization of hyponatremia.
-Discharge serum sodium: 128

#Hyperkalemia
The patient's potassium during his hospital stay was increased 
to 5.7, asymptomatic. Etiology remains unclear, hyperlipidemia 
as below possibly contributing. No evidence of acute kidney 
injury. Potassium normalized to his baseline with treatment of 
hypoglycemia as below.
-Discharge serum potassium: 4.5

#Type II diabetes mellitus, insulin dependent
#Hyperlipidemia
Patient was initially continued on his home insulin regimen with 
75 units of glargine twice daily plus an insulin sliding scale. 
However, his blood sugars are persistently elevated to 260-360 
with the increased prednisone dose. ___ was consulted to 
assist with further management recommended an increase of his 
insulin sliding scale. His glargine was changed to 75 qAM and 
30qHS (due to hypoglycemia) with sliding scale with meals. He 
received diabetes education and was discharged with a glucometer 
(his home one was broken) for daily blood sugar measurement and 
instructions to monitor his BG closely as his prednisone 
tapered.

#Acute on chronic diastolic heart failure
Mildly hyperkalemic on presentation. He was given an additional 
dose of 20 mg IV Lasix with good urine output. His home Lasix 
was increased to 20 mg every day. Discharge weigth 118.4kg 
(261.02 lbs).
-Increased Lasix 20 mg to daily.
-Continued Metoprolol Succinate XL 150 mg PO DAILY 
-Continued Rivaroxaban 20 mg p.o. with dinner.

CHRONIC/STABLE ISSUES:
======================

#CAD status post LAD PCI
-Continue baby aspirin

#Obstructive sleep apnea

#History of schizoaffective disorder
-Home divalproex, fluoxetine, ziprasidone.

#CLL:
His ibrutinib was stopped on the last hospital stay given 
bleeding risk and pericardial effusion. 
-Continued to hold ibrutinib

TRANSITIONAL ISSUES
===================

[] Aspirin increased to 320 mg daily for pain control plan to 
decrease back to 81 mg daily 2 weeks after discharge
[] Discharge serum sodium: 128 - uptrending. Discharged on fluid 
restriction. Please follow up within ___ weeks after discharge 
to ensure resolution
[] Discharge potassium: 4.5
[] Increased Lasix to 20mg daily. Discharge weigth 118.4kg 
(261.02 lbs)
[] Increased insulin sliding scale and decreased ___ glargine to 
30U. Patient given glucometer for daily blood sugar measurement. 
Please follow up and adjust insulin regimen accordingly

#CODE: Full (confirmed) 
#CONTACT: 
Wife, ______)
Son and listed HCP, ___ (___)
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Colchicine 0.6 mg PO BID 
2. Divalproex (EXTended Release) 500 mg PO QAM 
3. Divalproex (EXTended Release) 750 mg PO QPM 
4. Docusate Sodium 100 mg PO BID constipation 
5. FLUoxetine 20 mg PO DAILY 
6. Fluticasone Propionate NASAL 1 SPRY NU DAILY:PRN nasal 
congestion 
7. Gabapentin 300 mg PO TID 
8. Levothyroxine Sodium 25 mcg PO DAILY 
9. Lidocaine 5% Patch 3 PTCH TD QAM 
10. Multivitamins 1 TAB PO DAILY 
11. Pantoprazole 40 mg PO Q24H 
12. Senna 8.6 mg PO BID:PRN constipation 
13. ZIPRASidone Hydrochloride 40 mg PO BID 
14. Acyclovir 400 mg PO Q8H 
15. Aspirin 81 mg PO DAILY 
16. Furosemide 20 mg PO EVERY OTHER DAY 
17. Rivaroxaban 20 mg PO DINNER 
18. TraZODone 200 mg PO QHS:PRN Insomnia 
19. Sucralfate 1 gm PO TID:PRN upset stomach with meals 
20. melatonin 2.5 mg oral QHS:PRN 
21. Magnesium Oxide 400 mg PO BID 
22. HYDROcodone-Acetaminophen (5mg-325mg) 1 TAB PO Q8H:PRN Pain 
- Moderate 
23. Acetaminophen 500 mg PO Q8H:PRN Pain - Mild 
24. PredniSONE 10 mg PO DAILY 
This is dose # 4 of 4 tapered doses
25. Metoprolol Succinate XL 150 mg PO DAILY 
26. Losartan Potassium 25 mg PO DAILY 
27. Glargine 75 Units Breakfast
Glargine 75 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin

 
Discharge Medications:
1.  PredniSONE 40 mg PO DAILY Duration: 4 Days 
take for four days starting ___ 
RX *prednisone 20 mg 2 tablet(s) by mouth daily Disp #*8 Tablet 
Refills:*0 
2.  PredniSONE 30 mg PO DAILY Duration: 7 Days 
take for 7 days starting ___ 
RX *prednisone 10 mg 3 tablet(s) by mouth daily Disp #*21 Tablet 
Refills:*0 
3.  PredniSONE 20 mg PO DAILY Duration: 7 Days 
take for 7 days starting ___ 
RX *prednisone 20 mg 1 tablet(s) by mouth daily Disp #*7 Tablet 
Refills:*0 
4.  PredniSONE 10 mg PO DAILY Duration: 7 Days 
take for 7 days starting ___ 
RX *prednisone 10 mg 1 tablet(s) by mouth daily Disp #*7 Tablet 
Refills:*0 
5.  PredniSONE 5 mg PO DAILY Duration: 7 Days 
take for 7 days starting ___ 
RX *prednisone 5 mg 1 tablet(s) by mouth daily Disp #*7 Tablet 
Refills:*0 
6.  Aspirin 325 mg PO DAILY 
RX *aspirin 325 mg 1 tablet(s) by mouth daily Disp #*14 Tablet 
Refills:*0 
7.  Glargine 75 Units Breakfast
Glargine 30 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin 
8.  Acetaminophen 500 mg PO Q8H:PRN Pain - Mild  
9.  Acyclovir 400 mg PO Q8H  
10.  Colchicine 0.6 mg PO BID  
11.  Divalproex (EXTended Release) 500 mg PO QAM  
12.  Divalproex (EXTended Release) 750 mg PO QPM  
13.  Docusate Sodium 100 mg PO BID constipation  
14.  FLUoxetine 20 mg PO DAILY  
15.  Fluticasone Propionate NASAL 1 SPRY NU DAILY:PRN nasal 
congestion  
16.  Furosemide 20 mg PO EVERY OTHER DAY  
17.  Gabapentin 300 mg PO TID  
18.  HYDROcodone-Acetaminophen (5mg-325mg) 1 TAB PO Q8H:PRN Pain 
- Moderate  
19.  Levothyroxine Sodium 25 mcg PO DAILY  
20.  Lidocaine 5% Patch 3 PTCH TD QAM  
21.  Losartan Potassium 25 mg PO DAILY  
22.  Magnesium Oxide 400 mg PO BID  
23.  melatonin 2.5 mg oral QHS:PRN  
24.  Metoprolol Succinate XL 150 mg PO DAILY  
25.  Multivitamins 1 TAB PO DAILY  
26.  Pantoprazole 40 mg PO Q24H  
27.  Rivaroxaban 20 mg PO DINNER  
28.  Senna 8.6 mg PO BID:PRN constipation  
29.  Sucralfate 1 gm PO TID:PRN upset stomach with meals  
30.  TraZODone 200 mg PO QHS:PRN Insomnia  
31.  ZIPRASidone Hydrochloride 40 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
#Pericarditis

Secondary diagnoses:
#Hyponatremia
#Acute on chronic diastolic heart failure
#CAD status post LAD PCI
#Type 2 diabetes mellitus
#Obstructive sleep apnea
#History of schizoaffective disorder
#CLL

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr ___,

It was a pleasure taking care of you at ___!

Why was I admitted to the hospital?
- you had worsening of your chest pain from the pericarditis. 
Your steroid dose and your aspirin were increased. Imaging of 
your heart did not show any evidence of recurrent fluid around 
your heart.
- your salt level was low. This was likely because of you were 
drinking a lot of water. The amount of water you were drinking 
per day was decreased and your salt levels increased
- your blood sugar was high and therefore your insulin was 
increased.

What should I do after discharge?
- please take all the medications as detailed below. 
Specifically, take 325mg aspirin daily for the next two weeks. 
After that you should go back to 81mg daily (a baby aspirin) but 
you can take 325 daily if you still have pain (for up to two 
more weeks)
- please do not drink more than 1.5l of fluid per day until you 
see your PCP to keep your salt levels steady
- please use the glucometer to measure your blood sugar daily 
and record the results. Please show them to your PCP when you 
follow up with him
- please call your PCP if your blood sugars are <80 or >200 for 
assistance with changing your insulin dose. 
- please follow up with your PCP and your cardiologist as below.

All the best,

Your ___ care team!
 
Followup Instructions:
___